US08076329B2
A suspension of potassium carbonate (760 mg) in a solution of 1-{3-[4-(4-tosyloxybut-1-yn-1-yl)phenoxy]propyl}piperidine (487 mg) in a mixture of piperidine (1.09 mL) and acetonitrile (8 mL) is heated at a temperature close to 60° C. for 24 h. The suspension is filtrated. The filtrate concentrated under reduced pressure and purified by chromatography over silica gel using a gradient dichloromethane/methanol from 100/0 to 95/5. Fraction containing the expected product are pooled, concentrated under reduced pressure and salted with oxalic acid to give 190 mg of 1-{3-[4-(4-piperidinobut-1-yn-1-yl)phenoxy]propyl}piperidine as an off white solid melting at 167° C.

reactant | potassium carbonate | 760 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-{3-[4-(4-tosyloxybut-1-yn-1-yl)phenoxy]propyl}piperidine | 487 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC#CC1=CC=C(OCCCN2CCCCC2)C=C1 | C25H31NO4S
solvent | piperidine | 1.09 mL | N1CCCCC1 | C5H11N
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 1-{3-[4-(4-piperidinobut-1-yn-1-yl)phenoxy]propyl}piperidine | 190 mg | N1(CCCCC1)CCC#CC1=CC=C(OCCCN2CCCCC2)C=C1 | C23H34N2O
